US06329381B1
6-Amino-9-benzyl-2-ethoxy-8-hydroxypurine
6-Amino-9-benzyl-2-ethoxy-8-methoxypurine (18 mg, 0.06 mmol) in concentrated hydrochloric acid (5 ml) was stirred for 3 hours at room temperature. The reaction mixture was made basic with 28% aqueous ammonia, and the resulting crystals were filtered and washed with water to give the subject compound (11 mg, yield 64%).

reactant | 6-Amino-9-benzyl-2-ethoxy-8-methoxypurine | 0.06 mmol, 18 mg | NC1=C2N=C(N(C2=NC(=N1)OCC)CC1=CC=CC=C1)OC | C15H17N5O2
reactant | ammonia | N | H3N
solvent | hydrochloric acid | 5 ml | Cl | ClH
product | 6-Amino-9-benzyl-2-ethoxy-8-hydroxypurine | 11 mg, yield 64% | NC1=C2N=C(N(C2=NC(=N1)OCC)CC1=CC=CC=C1)O | C14H15N5O2
